* tb_ls_power.spice — Static power measurement
* Block 06: Level Shifter — TT 27C
*
.include design.cir
.lib /home/ubuntu/pdk/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt

.option method=gear reltol=1e-4

* Supplies
Vsvdd svdd 0 2.2
Vbvdd bvdd 0 7.0
Vpvdd pvdd 0 5.0

* Load
Cload_up out_up 0 1p
Cload_dn out_dn 0 1p

* Input held at steady states for a long time
* First half: input LOW (steady state 0), second half: input HIGH
Vin_up in_up 0 PULSE(0 2.2 500n 1n 1n 500n 1200n)
Vin_dn in_dn 0 PULSE(0 5.0 500n 1n 1n 500n 1200n)

* DUT
Xup in_up out_up bvdd svdd 0 level_shifter_up
Xdn in_dn out_dn pvdd svdd 0 level_shifter_down

.tran 1n 1200n

.control
run

echo "=== tb_ls_power results ==="

* Measure supply current in both steady states
meas tran ibvdd_low AVG i(Vbvdd) FROM=300n TO=480n
meas tran isvdd_low AVG i(Vsvdd) FROM=300n TO=480n
meas tran ipvdd_low AVG i(Vpvdd) FROM=300n TO=480n
meas tran ibvdd_high AVG i(Vbvdd) FROM=700n TO=950n
meas tran isvdd_high AVG i(Vsvdd) FROM=700n TO=950n
meas tran ipvdd_high AVG i(Vpvdd) FROM=700n TO=950n

* Worst-case static current per shifter in uA
let i_up_low = abs(ibvdd_low) * 1e6
let i_up_high = abs(ibvdd_high) * 1e6
let i_dn_low = abs(ipvdd_low) * 1e6
let i_dn_high = abs(ipvdd_high) * 1e6

echo "i_up_low_uA:" "$&i_up_low"
echo "i_up_high_uA:" "$&i_up_high"
echo "i_dn_low_uA:" "$&i_dn_low"
echo "i_dn_high_uA:" "$&i_dn_high"

* Worst case across all states and both shifters
let worst = i_up_low
if i_up_high > worst
  let worst = i_up_high
end
if i_dn_low > worst
  let worst = i_dn_low
end
if i_dn_high > worst
  let worst = i_dn_high
end

echo "static_power_uA:" "$&worst"

quit
.endc

.end
